US04883789
To 28 mL (0.30 mole) of acetic anhydride that had been cooled to 0° C. was added slowly 16.75 g (0.36 mole) of 100% formic acid. Upon completion of addition this mixture was heated at 50° C. for 15 minutes. After the mixture was cooled to 0° C., 72.0 g of 1-(4-fluoro-3-phenoxyphenyl)-2-propen-1-ol was added during a 20 minute period. Upon completion of addition, the reaction mixture was allowed to stand at room temperature overnight and was then poured into an ice/water mixture. This mixture was extracted with diethyl ether, and the ether extract was separated, washed four times with water and four times with a saturated, aqueous solution of sodium bicarbonate, and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, leaving 78.2 g of 1-(4-fluoro-3-phenoxyphenyl)-2-propen-1-yl formate as a residue. The ir and nmr spectra were consistent with the proposed structure.

reactant | acetic anhydride | 0.30 mole, 28 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.36 mole, 16.75 g | C(=O)O | CH2O2
reactant | 1-(4-fluoro-3-phenoxyphenyl)-2-propen-1-ol | 72.0 g | FC1=C(C=C(C=C1)C(C=C)O)OC1=CC=CC=C1 | C15H13FO2
product | 1-(4-fluoro-3-phenoxyphenyl)-2-propen-1-yl formate | 78.2 g | C(=O)OC(C=C)C1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C16H13FO3
